US05158971
1-Hydroxy-1-[5-(3-trifluoromethylphenylthio)thien-2-ylethyl]-urea
To a solution of N-[5-(3-trifluoromethylphenylthio)thien-2-ylethyl]hydroxylamine (7.6 g) in dioxan (70 ml) at room temperature under nitrogen, was added trimethylsilylisocyanate (5.48 g) and the reaction mixture stirred for 2 hours. The solution was quenched with saturated aqueous ammonium chloride, extracted with ether (2×100 ml), dried over MgSO4, evaporated under reduced pressure to give a yellow oil. The oil was flash chromatographed on a Sorbsil C60-40/60H column using ether to give a white solid, recrystallised from ether-petroleum ether, m.p. 124°-126° C.

reactant | N-[5-(3-trifluoromethylphenylthio)thien-2-ylethyl]hydroxylamine | 7.6 g | FC(C=1C=C(C=CC1)SC1=CC=C(S1)CCNO)(F)F | C13H12F3NOS2
reactant | trimethylsilylisocyanate | 5.48 g | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dioxan | 70 ml | O1CCOCC1 | C4H8O2
product | 1-Hydroxy-1-[5-(3-trifluoromethylphenylthio)thien-2-ylethyl]-urea | ON(C(=O)N)CCC=1SC(=CC1)SC1=CC(=CC=C1)C(F)(F)F | C14H13F3N2O2S2
